US07456175B2
Step 3: [2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-methyl-amine hydrochloride
A mixture of 3.3 g (11 mmol) N-[2-(4-cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide and 12 ml 4N HCl in 5 ml water and 25 ml dioxane was stirred at room temperature. After evaporation of the volatiles the residue was triturated with a mixture formed from acetone and dioxane and dried under vacuum to yield 2.3 g (72%) of the title compound (intermediate 10) as off-white solid. MS: (m/e): 261.2 (MH+).

reactant | N-[2-(4-cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-N-methyl-acetamide | 11 mmol, 3.3 g | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=C1)N(C(C)=O)C | C17H26N4O
reactant | HCl | 4N, 12 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | [2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-yl]-methyl-amine hydrochloride | 2.3 g, 72% | Cl.C1(CCCC1)N1CCN(CC1)C1=NC=CC(=C1)NC | InChI=1S/C15H24N4.ClH/c1-16-13-6-7-17-15(12-13)19-10-8-18(9-11-19)14-4-2-3-5-14;/h6-7,12,14H,2-5,8-11H2,1H3,(H,16,17);1H
